US07557244B2
h) 2-[5-(3-Isopropyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid
A mixture of 2-[5-(3-isopropyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester (33 mg, 0.07 mmol), THF (0.6 mL), 10% aq. LiOH (0.2 mL) and MeOH (0.6 mL) was stirred at 30° C. for 3 h. The solution was concentrated and the residue was diluted with H2O (1 mL) and then acidified with conc HCl. The aqueous solution was extracted with DCM (3×1 mL) and the organic layers were filtered through PTFE filter. The solution was concentrated in vacuo to give a solid residue. The solid was purified using reverse phase preparative HPLC (MeCN, H2O) to afford the title compound (21.6 mg, 67%).

reactant | 2-[5-(3-isopropyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | 0.07 mmol, 33 mg | COC(C(CC(C)C)C=1C=C(C=C(C1)OC1=CC(=CC=C1)C(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C29H31F3O3
reactant | THF | 0.6 mL | C1CCOC1 | C4H8O
reactant | LiOH | 0.2 mL | [Li+].[OH-]
solvent | MeOH | 0.6 mL | CO | CH4O
product | 2-[5-(3-Isopropyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | 21.6 mg, 67% | C(C)(C)C=1C=C(OC=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CC(C)C)C=CC1 | C28H29F3O3
